US04409220
7-Ethyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-1-oxide dihydrochloride
First 23 gm (0.16 mol) of 1-ethyl-hexahydro-azepin-4-one and then 19.2 ml of tert.butylnitrite were added dropwise to a mixture of 19 gm (0.16 mol) of potassium tert.butylate and 200 ml of absolute tetrahydrofuran at -40° C., and the resulting mixture was allowed to stand overnight at 0° to 10° C. Thereafter, a solution of 20 gm (0.217 mol) of amino-acetonitrile hydrochloride and 30 gm of N-ethyl-diisopropylamine in 280 ml of chloroform was added, and the resulting mixture was refluxed for 4 hours, then filtered, and the filtrate was evaporated. The desired compound was isolated from the isomer mixture residue by silicagel chromatography with acetone/concentrated ammonia (95:5). The dihydrochloride was precipitated from ethanol with ethanolic hydrochloric acid.

reactant | 1-ethyl-hexahydro-azepin-4-one | 0.16 mol, 23 gm | C(C)N1CCC(CCC1)=O | C8H15NO
reactant | tert.butylnitrite | 19.2 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | amino-acetonitrile hydrochloride | 0.217 mol, 20 gm | Cl.NCC#N
reactant | N-ethyl-diisopropylamine | 30 gm | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | 280 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-Ethyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-1-oxide dihydrochloride | Cl.Cl.C(C)N1CCC=2C(CC1)=NC=C([N+]2[O-])N | InChI=1S/C10H16N4O.2ClH/c1-2-13-5-3-8-9(4-6-13)14(15)10(11)7-12-8;;/h7H,2-6,11H2,1H3;2*1H
